US06265572B1
A suspension of Fmoc-S-trityl-L-cysteine (2.9 g, 5 mmol) in dry toluene (10 mL) was heated to 80° C. To this suspension was added over 20 min., di-tert-butyl-dimethylformamide acetal (4.8 mL, 20 mmol). The solution was cooled, washed with water, saturated sodium bicarbonate (2×10 mL), and evaporated. The residue was purified by flash chromatography eluting with ethyl acetate/hexanes (15/85), to give 2.2 g of N-Fluorenylmethoxycarbonyl-S-trityl-L-Cysteine-t-butyl ester.

reactant | Fmoc-S-trityl-L-cysteine | 5 mmol, 2.9 g | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)N[C@@H](CSC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)O | C37H31NO4S
reactant | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | N-Fluorenylmethoxycarbonyl-S-trityl-L-Cysteine-t-butyl ester | 2.2 g | C(C)(C)(C)OC([C@@H](NC(=O)OCC1=CC=CC=2C3=CC=CC=C3CC12)CSC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C41H39NO4S
